US07344702B2
A solution of 2,4-dihydroxy-5-nitro-benzaldehyde (10.61 g, 58 mmol) in Me2CO (6 mL) is added during a 5.5 h period to a stirring solution of 3-methyl-but-2-enal (4.00 g, 29 mmol) in pyridine (2.29 g, 2.34 mL, 29 mmol) at 120° C. After completion of addition heating is continued for an additional 18 h. The Me2CO is evaporated and the pyridine is removed by azeotrope distillation with toluene to afford a crude product. The crude product is purified using silica gel chromatography with 1% ethyl acetate in hexanes to afford 5-hydroxy-2,2-dimethyl-8-nitro-2H-chromene-6-carbaldehyde.

reactant | 2,4-dihydroxy-5-nitro-benzaldehyde | 58 mmol, 10.61 g | OC1=C(C=O)C=C(C(=C1)O)[N+](=O)[O-] | C7H5NO5
reactant | 3-methyl-but-2-enal | 29 mmol, 4.00 g | CC(=CC=O)C | C5H8O
reactant | pyridine | 29 mmol, 2.34 mL, 2.29 g | N1=CC=CC=C1 | C5H5N
product | 5-hydroxy-2,2-dimethyl-8-nitro-2H-chromene-6-carbaldehyde | OC1=C2C=CC(OC2=C(C=C1C=O)[N+](=O)[O-])(C)C | C12H11NO5
